US05389633
Production of N,N-dimethyl-3-hydroxypropane-1-sulfonamide
Using 3-acetoxypropane-1-sulfonyl chloride and dimethylamine hydrochloride, the same reaction as in Reference Example 44 and 46 was conducted to produce the title compound.

reactant | 3-acetoxypropane-1-sulfonyl chloride | C(C)(=O)OCCCS(=O)(=O)Cl | C5H9ClO4S
reactant | dimethylamine hydrochloride | Cl.CNC
product | N,N-dimethyl-3-hydroxypropane-1-sulfonamide | CN(S(=O)(=O)CCCO)C | C5H13NO3S
